US04242350
A mixture of 3-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole (0.626 g.), sodium metaperiodate (0.428 g.), methanol (20 ml.) and water (70 ml.) was stirred overnight at room temperature. The reaction mixture was evaporated to dryness and the residue extracted with absolute ethanol (120 ml.). The extract was filtered and evaporated to dryness. The residue was crystallised from methanol (with charcoal treatment) to give 3-[2-(2-cyano-3-methylguanidino)-ethylsulphinylmethyl]-5-guanidino-1,2,4-thiadiazole as a white powder, m.p. 185°-186°.

reactant | 3-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole | 0.626 g | C(#N)N=C(NCCSCC1=NSC(=N1)NC(=N)N)NC | C9H15N9S2
reactant | sodium metaperiodate | 0.428 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | 70 ml | O | H2O
product | 3-[2-(2-cyano-3-methylguanidino)-ethylsulphinylmethyl]-5-guanidino-1,2,4-thiadiazole | C(#N)N=C(NCCS(=O)CC1=NSC(=N1)NC(=N)N)NC | C9H15N9OS2
